US07084154B2
Palladium on carbon (10%, 50 mg) was added to a solution of 4-(2-nitrovinyl)benzoic acid methyl ester (228 mg) in 5 mL of ethyl alcohol and 2 mL of acetic acid. The reaction vessel was saturated with hydrogen and stirred under a 1 atm hydrogen atmosphere for 20 h. The vessel was saturated with nitrogen and filtered through celite. Evaporation of the solvents gave 205 mg of crude 4-(2-amino-ethyl)-benzoic acid methyl ester.

reactant | 4-(2-nitrovinyl)benzoic acid methyl ester | 228 mg | COC(C1=CC=C(C=C1)C=C[N+](=O)[O-])=O | C10H9NO4
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 50 mg | [Pd] | Pd
solvent | ethyl alcohol | 5 mL | C(C)O | C2H6O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 4-(2-amino-ethyl)-benzoic acid methyl ester | 205 mg | COC(C1=CC=C(C=C1)CCN)=O | C10H13NO2
